US04032321
A. 3-Amino-2-cyano-4-methyl-2-pentenenitrile
A solution of 530.5 g of 3-chloro-2-cyano-4-methyl-2-pentenenitrile in 515 ml of ethanol was added dropwise during one hour to a stirred solution of 2,400 ml of concentrated ammonium hydroxide in 1,560 ml of ethanol while maintaining the reaction mixture at 35°-40° with an ice-water bath. The reaction mixture was stirred for 3.5-4 hours and was poured into 6.5 liters of ice and water. The mixture was stirred until all the ice had melted (approximately thirty minutes). The precipitate was collected by filtration. The filter cake was washed with two 1500-ml portions of water and air-dried on the filter. After the drying the 400 g of 3-amino-2-cyano-4-methyl-2-pentenenitrile, mp 182°-184°, was used in the next synthesis step without further purification.

reactant | 3-chloro-2-cyano-4-methyl-2-pentenenitrile | 530.5 g | ClC(=C(C#N)C#N)C(C)C | C7H7ClN2
reactant | ammonium hydroxide | 2,400 ml | [OH-].[NH4+]
reactant | water | O | H2O
solvent | ethanol | 515 ml | C(C)O | C2H6O
solvent | ethanol | 1,560 ml | C(C)O | C2H6O
product | 3-Amino-2-cyano-4-methyl-2-pentenenitrile | NC(=C(C#N)C#N)C(C)C | C7H9N3
